US05104884
2-(1H-1,2,4-triazole-1-yl)-3-methyl-7-ethyl-quinoline
A mixture of 2.05 g of 2-chloro-3-methyl-7-ethyl-quinoline, 1.05 g of 1,2,4-triazole-hydrochloride, 0.69 g of 1,2,4-triazole and 10 ml of dimethyl formamide is stirred at 100° C. for 6 hours. The reaction mixture is poured into 100 ml of water, neutralized and the crude product is recrystallized from a mixture of ethanol and hexane. Thus 1.52 g of the desired compound are obtained, yield 64%. Mp.: 72°-73° C.

reactant | 2-chloro-3-methyl-7-ethyl-quinoline | 2.05 g | ClC1=NC2=CC(=CC=C2C=C1C)CC | C12H12ClN
reactant | 1,2,4-triazole-hydrochloride | 1.05 g | Cl.N1N=CN=C1
reactant | 1,2,4-triazole | 0.69 g | N1N=CN=C1 | C2H3N3
reactant | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(1H-1,2,4-triazole-1-yl)-3-methyl-7-ethyl-quinoline | 1.52 g, yield 64% | N1(N=CN=C1)C1=NC2=CC(=CC=C2C=C1C)CC | C14H14N4
